Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],4.89657063877
[C:3]1([H:4])=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-3.57339948589
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[O:10],1.7442760844299998
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.0136546104000015
[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:6].[O:1][O:2][C:3]([H:4])=[C:5],4.50306322274
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.3335666941700002
[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.11398552204
[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-4.54622780937
[C:1]/[C:2]([H:3])=[C:4](/[O:5][H:6])[O:7][C:8][H:9]>>[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[O:7][C:8][H:9],2.63506719287
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8],4.4230467731
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6],4.7270256703
[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][H:7]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7],-2.26400121
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])[H:13],4.59400063461
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.37228641335
[O:1]=[C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:3][C:4]#[C:5][H:6],2.0431119195500003
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7],1.83349244114
[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.56839288088
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10][H:11])[C:13]([H:14])([H:15])[H:16],5.0058123867
[C:6][O:7][H:8].[H:1][C:2][O:3][C:4]([H:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.1522856587700003
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:6],3.64566368841
[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.07014644873
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[O:11][H:12].[H:7],4.84142153626
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-6.563277036869999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.89800284678
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6],4.80736050266
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6],5.1496256721
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-2.4997423714400004
[H:1][c:2]1[c:3][o:4][c:5]([H:6])[c:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:3](=[C:2]\[C:8]([H:9])([H:10])[H:11])[O:4][C:5]#[C:7][H:6],2.41415305862
